US08222245B2
9-(Methyloxy)-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
A solution of methyl 2-[(2-aminoethyl)oxy]-3-(methyloxy)benzoate (Preparation 56) (11.9 g, 52.8 mmol) in toluene (200 ml) was stirred and heated at 110° C. for 1 hour then cooled and evaporated to give the title compound (10.3 g) as a sandy coloured solid. MS (ES): C10H11NO3 requires 193; found 194 [M+H]+.

reactant | methyl 2-[(2-aminoethyl)oxy]-3-(methyloxy)benzoate | 52.8 mmol, 11.9 g | NCCOC1=C(C(=O)OC)C=CC=C1OC | C11H15NO4
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 9-(Methyloxy)-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 10.3 g | COC1=CC=CC=2C(NCCOC21)=O | C10H11NO3
